US08133908B2
Description 31: N-[(1S,4S,6S)-3-azabicyclo[4.1.0]hept-4-ylmethyl]-5-(trifluoromethyl)-2-pyrazinamine (D31)
To a solution of 1,1-dimethylethyl (1S,4S,6S)-4-({[5-(trifluoromethyl)-2-pyrazinyl]amino}methyl)-3-azabicyclo[4.1.0]heptane-3-carboxylate D30 (100 mg) in DCM (4 ml) TFA (2 ml, 26.0 mmol) was added dropwise. The mixture was left reacting at room temperature for 2 hours. Solvent was evaporated in vacuum and the crude was purified by SCX chromatography using MeOH 100% to MeOH/NH3 2M. It was recovered the title compound D31 (57 mg). UPLC: (Acid Final_QC): rt=0.48 minutes, peaks observed: 273 (M+1). C12H15F3N4 requires 272. 1H NMR (400 MHz, CDCl3). δ ppm 0.22-0.29 (m, 1 H) 0.67-0.76 (m, 1 H) 0.82-0.92 (m, 1 H) 1.02-1.13 (m, 1 H) 1.24-1.35 (m, 1 H) 2.01-2.12 (m, 1 H) 2.63-2.72 (m, 1 H) 2.95-3.06 (m, 1 H) 3.17 (dd, 1 H) 3.26 (d, 1 H) 3.53-3.63 (m, 1 H) 5.96 (br. s., 1 H) 7.91-7.96 (m, 1 H) 8.26-8.31 (m, 1 H).

reactant | 1,1-dimethylethyl (1S,4S,6S)-4-({[5-(trifluoromethyl)-2-pyrazinyl]amino}methyl)-3-azabicyclo[4.1.0]heptane-3-carboxylate | FC(C=1N=CC(=NC1)NC[C@H]1N(C[C@H]2C[C@H]2C1)C(=O)OC(C)(C)C)(F)F | C17H23F3N4O2
reactant | DCM | 26.0 mmol, 4 ml | C(Cl)Cl | CH2Cl2
product | N-[(1S,4S,6S)-3-azabicyclo[4.1.0]hept-4-ylmethyl]-5-(trifluoromethyl)-2-pyrazinamine | [C@H]12CN[C@@H](C[C@@H]2C1)CNC1=NC=C(N=C1)C(F)(F)F | C12H15F3N4
